US05266668
In the first process stage, dimethyl α-fluoromalonate is subjected to hydroxymethylation with formaldehyde. (Dimethyl α-fluoromalonate is a known compound; see Journal of Fluorine Chemistry 25 (1984), 203-212.) The formaldehyde is preferably employed in the form of an aqueous solution having a formaldehyde content of 30 to 40% by weight. The formaldehyde is employed in an amount of 1 to 10 mot, preferably 1.1 to 3 mot (relative to 1 mol of dimethyl α-fluoromalonate). It is also possible to use paraformaldehyde, hexamethylenetetramine or 1,3,5-trioxane instead of formaldehyde. It is advantagous to carry out the reaction in the presence of a basic catalyst, which is then used in an amount of 2 to 50, preferably 5 to 15, mol % (relative to the dimethyl α-fluoromalonate). The catalyst used is, in particular, an alkali metal bicarbonate, for example potassium bicarbonate and sodium bicarbonate. The reaction is carried out at a temperature of 5° to 40° C., preferably 15° to 30° C. The dimethyl α -hydroxymethyl-α-fluoromalonate formed is then isolated from the reaction mixture, preferably by salting out or extraction by means of a water-immiscible organic solvent. A suitable solvent is, above all, an aliphatic chlorinated hydrocarbon having 1 to 4 carbon atoms, for example methylene dichloride, chloroform, carbon tetrachloride, 1,1-dichloroethane or 1,2-dichloroethane. A combination of salting out and extraction is particularly advantageous; a saturated salt solution (ammonium sulfate or sodium chloride) is then first added to the reaction mixture, and this mixture is then extracted. Dimethyl α-hydroxymethyl-α-fluoromalonate is obtained in the form of a colorless solid by evaporating the solvent.

reactant | dimethyl α-fluoromalonate | FC(C(=O)OC)C(=O)OC | C5H7FO4
reactant | formaldehyde | C=O | CH2O
reactant | Fluorine | FF | F2
reactant | dimethyl α-fluoromalonate | 1 mol | FC(C(=O)OC)C(=O)OC | C5H7FO4
reactant | hexamethylenetetramine | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 1,3,5-trioxane | O1COCOC1 | C3H6O3
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | dimethyl α -hydroxymethyl-α-fluoromalonate | OCC(C(=O)OC)(C(=O)OC)F | C6H9FO5
